US06448277B2
0.14 g Sodium nitrite in water is added to 1 g 4,5-dimethyl-2-nitroaniline in 3 mL conc. HCl and stirred for 1 hour at +4° C. This solution is added to a mixture of 0.67 g copper (I) cyanide, 0.98 g sodium cyanide, 0.32 g sodium carbonate, 25 mL of water and 3 mL toluene. The mixture is stirred for 12 hours at room temperature and worked up to give 0.45 g 4,5-dimethyl-2-nitrobenzonitrile. 4,5-Dimethyl-2-nitrobenzonitrile is reduced with iron power in acetic acid to yield 4,5-dimethyl-2-aminobenzonitrile. 4,5-Dimethyl-2-aminobenzonitrile is heated at reflux for 12 hours in conc. HCl to give 4,5-dimethyl-2-aminobenzoic acid. 4,5-Dimethyl-2-aminobenzoic acid is reacted with trimethylsilydiazomethane to yield methyl 4,5-dimethyl-2-aminobenzoate (Chem. Pharm. Bull. Vol. 29, (1981)).

reactant | 4,5-Dimethyl-2-nitrobenzonitrile | CC1=CC(=C(C#N)C=C1C)[N+](=O)[O-] | C9H8N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | 4,5-dimethyl-2-aminobenzonitrile | CC1=CC(=C(C#N)C=C1C)N | C9H10N2
